US09359371B2
In methanol (20 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-N-(2-(piperazin-1-yl)ethyl)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide (250 mg, 0.5 mmol). Formalin (37%, 61 mg, 0.75 mmol) was added. The reaction was conducted at 0° C. for 1 h. Sodium borohydride (38 mg, 1.0 mmol) was added at 0° C. The reaction was continued for 2 h, then quenched with water. The reaction mixture was filtrated, dried and concentrated to give 4-((3-chloro-4-methoxybenzyl)amino)-N-(2-(4-methylpiperazin-1-yl)ethyl)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide (168 mg, 65% yield). The product was dissolved in methanol (5 mL), and hydrochloric acid (0.1 mL) was added. The reaction mixture was stirred at ambient temperature for 30 min. The solvent was removed by evaporation to give the hydrochloride salt of the compound as a white solid.

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-N-(2-(piperazin-1-yl)ethyl)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide | 0.5 mmol, 250 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCCN2CCNCC2)N2CC3(CC3)CC2)C=CC1OC | C25H34ClN7O2
reactant | Formalin | 0.75 mmol, 61 mg | C=O | CH2O
reactant | Sodium borohydride | 1.0 mmol, 38 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-((3-chloro-4-methoxybenzyl)amino)-N-(2-(4-methylpiperazin-1-yl)ethyl)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide | 168 mg, 65% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCCN2CCN(CC2)C)N2CC3(CC3)CC2)C=CC1OC | C26H36ClN7O2
